US07396836B2
5-[2-Amino-4,6-di(2-furyl)-5-pyrimidinyl]-1-(2-butynyl)-1,2-dihydro-2-pyridinone
The title compound was synthesized in a similar manner to Example 66 using 5-[2-amino-4,6-di(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone and 1-bromo-2-butyne.

reactant | 5-[2-amino-4,6-di(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | NC1=NC(=C(C(=N1)C=1OC=CC1)C=1C=CC(NC1)=O)C=1OC=CC1 | C17H12N4O3
reactant | 1-bromo-2-butyne | BrCC#CC | C4H5Br
product | 5-[2-Amino-4,6-di(2-furyl)-5-pyrimidinyl]-1-(2-butynyl)-1,2-dihydro-2-pyridinone | NC1=NC(=C(C(=N1)C=1OC=CC1)C=1C=CC(N(C1)CC#CC)=O)C=1OC=CC1 | C21H16N4O3
